US05411977
A mixture of 150 mg (0.450 mmol) 2,3,N-triphenyl-3-mercaptopropenamide and 25 mL methylene chloride was stirred at room temperature. Added was 115 mg (1 equiv.) of iodine followed by 116 mg (1 equiv.) of triethylamine and the mixture stirred for one hour. Solvent was evaporated and 50 mL ethyl acetate added and the mixture poured into 50 mL water. The organic layer was separated and washed with three 50 mL portions of water. The organic layer was dried, filtered and solvent was evaporated from the filtrate. The resulting solid was recrystallized from ethanol/water to provide 108 mg (0.327 mmol, 73%) 4,5,N-triphenyl-4-isothiazolin-3-one as a tan solid, mp=175°-176° C. NMR (CDCl3 /TMS): 7.30-7.72 (m, 15H). IR (KBr): 1656. Mass spectrum (CI): M/z=330 (M+H)+. Anal. calcd. for C21H15NOS: C 76.57, H 4.59, N 4.25, S 9.73; Found: C 76.25, H 4.40, N 4.19, S 9.81.

reactant | 2,3,N-triphenyl-3-mercaptopropenamide | 0.450 mmol, 150 mg | C1(=CC=CC=C1)C(C(=O)NC1=CC=CC=C1)=C(S)C1=CC=CC=C1 | C21H17NOS
reactant | iodine | 115 mg, 1 equiv. | II | I2
reactant | triethylamine | 116 mg, 1 equiv. | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 4,5,N-triphenyl-4-isothiazolin-3-one | 0.327 mmol, 108 mg, 73% | C1(=CC=CC=C1)C=1C(N(SC1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H15NOS
